US05145960
H. 1,3-Dideoxy-3-[(phenylmethoxy)methyl]-5-O-(phenylmethyl)-D-ribofuranose
To a solution of 3-deoxy-3-[(phenylmethoxy)methyl]-5-O-(phenylmethyl)-D-ribofuranose, diacetate (4.81 g, 11.23 mmol) in dichloromethane (100 ml) at 0° C. was added trimethylsilyl bromide (2.59 ml, 19.65 mmol). The reaction was stirred at 0° C. for 30 minutes and at room temperature for 6.5 hours. At this time, the reaction was cooled to 0° C. and transferred via canula to a toluene solution of diisobutylaluminum hydride (100 ml, 1M), also at 0° C. The reaction mixture was kept at 0° C. for 40 minutes and then quenched cautiously with methanol (14.2 ml) and then water (20 ml). After stirring at room temperature for 1 hour, the mixture was filtered through Celite, washing well with ether and ethyl acetate. The volatiles were evaporated in vacuo and the resulting oil (4.04 g) was combined with the crude product (7.6 g) from an identical reaction starting with 23.16 mmol of 3-deoxy-3[(phenylmethoxy)methyl]-5-O-(phenylmethyl)-D-ribofuranose, diacetate. The combined products were purified by flash chromatography (Merck silica gel-60, 230-400 mesh) eluting with a step-wise gradient of dichloromethane and dichloromethane/dioxane (20:1 and then 7:3). The resulting material was further purified by flash chromatography (Merck silica gel-60, 230-400 mesh) eluting with dichloromethane/dioxane (15:1) to give the title compound as a colorless oil (3.4 g). The mixed fractions were purified by flash chromatography (Merck silica gel-60, 230-400 mesh) eluting with dichloromethane/dioxane (20:1) to give additional title compound as a colorless oil (1.5 g pure and 1.66 g ~90% pure by 1H NMR).

reactant | 3-deoxy-3-[(phenylmethoxy)methyl]-5-O-(phenylmethyl)-D-ribofuranose | C1(=CC=CC=C1)COC[C@H]1[C@H](C(O)O[C@@H]1COCC1=CC=CC=C1)O | C20H24O5
reactant | diacetate | 11.23 mmol, 4.81 g | CC(=O)CC(=O)O | C4H6O3
reactant | trimethylsilyl bromide | 19.65 mmol, 2.59 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | diisobutylaluminum hydride | 1M, 100 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 3-deoxy-3[(phenylmethoxy)methyl]-5-O-(phenylmethyl)-D-ribofuranose | 23.16 mmol | C1(=CC=CC=C1)COC[C@H]1[C@H](C(O)O[C@@H]1COCC1=CC=CC=C1)O | C20H24O5
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dideoxy-3-[(phenylmethoxy)methyl]-5-O-(phenylmethyl)-D-ribofuranose | 3.4 g | C1(=CC=CC=C1)COC[C@H]1[C@H](CO[C@@H]1COCC1=CC=CC=C1)O | C20H24O4
